US08138205B2
8-(6-Bromohexyloxy)-4-(3,5-dichloropyridin-4-ylamino)-7-methoxyquinolin-2(1H)-one (129 mg, 0.25 mmol) was added to a solution of dimethylamine (2.0 mL, 2M tetrahydrofuran, 4 mmol) and DMSO (0.5 mL) at room temperature. After 2.5 h, the reaction was concentrated to remove the excess amine and tetrahydrofuran. The resulting solution was purified by reverse-phase HPLC to give 4-(3,5-dichloropyridin-4-ylamino)-8-(6-(dimethylamino)hexyloxy)-7-methoxyquinolin-2(1H)-one. 1H NMR (400 MHz, DMSO-d6, HCl salt): δ 10.32 (s, 1H), 10.27 (br, 1H), 9.14 (s, 1H), 8.78 (s, 2H), 7.97 (d, 1H), 7.12 (d, 1H), 4.90 (s, 1H), 3.99 (t, 2H), 3.92 (s, 3H), 2.99 (m, 2H), 2.70 (d, 6H), 1.77 (m, 2H), 1.65 (m, 2H), 1.43 (m, 2H), 1.33 (m, 2H); MS(ESI): 479.0.

reactant | 8-(6-Bromohexyloxy)-4-(3,5-dichloropyridin-4-ylamino)-7-methoxyquinolin-2(1H)-one | 0.25 mmol, 129 mg | BrCCCCCCOC=1C(=CC=C2C(=CC(NC12)=O)NC1=C(C=NC=C1Cl)Cl)OC | C21H22BrCl2N3O3
reactant | dimethylamine | 4 mmol, 2M, 2.0 mL | CNC | C2H7N
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | 4-(3,5-dichloropyridin-4-ylamino)-8-(6-(dimethylamino)hexyloxy)-7-methoxyquinolin-2(1H)-one | ClC=1C=NC=C(C1NC1=CC(NC2=C(C(=CC=C12)OC)OCCCCCCN(C)C)=O)Cl | C23H28Cl2N4O3
